US06852713B2
Step 8D: 2-Allylamino-1-[3-(S)-(tert-butyl-dimethyl-silanyloxy)-pyrrolidin-1-yl]-2-(S)-phenyl-ethanone
To a stirred solution N-allyl-N-{2-[3-(S)-(tert-butyl-dimethyl-silanyloxy)-pyrrolidin-1-yl]-2-oxo-1-(S)-phenyl-ethyl}-2-nitro-benzenesulfonamide (8.73 g, 15.6 mmol) in anhydrous dimethylformamide (45 cm3) was added potassium carbonate (6.50 g, 46.8 mmol). The mixture was stirred at ambient temperature for 10 minutes and thiophenol (2.25 cm3, 21.8 mmol) was added dropwise over 10 minutes. The mixture was stirred for 16 hours at ambient temperature and poured into water (500 cm3) and extracted with ethyl acetate (3×150 cm3). The combined ethyl acetate extracts were washed with water (2×100 cm3), brine (1×100 cm3), dried over sodium sulfate, vacuum filtered and the volatile fractions removed in vacuo to a foul smelling yellow oil. The crude product was purified by column chromatography (silica, eluting with hexane-ethyl acetate 1:1 to 0:1) to afford the title compound as a yellow viscous oil (5.67 g, 97.1%) with a positive ion ESI (M+H)+375.2.

reactant | N-allyl-N-{2-[3-(S)-(tert-butyl-dimethyl-silanyloxy)-pyrrolidin-1-yl]-2-oxo-1-(S)-phenyl-ethyl}-2-nitro-benzenesulfonamide | 15.6 mmol, 8.73 g | C(C=C)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@H](C(=O)N1C[C@H](CC1)O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C27H37N3O6SSi
reactant | potassium carbonate | 46.8 mmol, 6.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | thiophenol | 21.8 mmol, 2.25 cm3 | C1(=CC=CC=C1)S | C6H6S
reactant | water | 500 cm3 | O | H2O
solvent | dimethylformamide | 45 cm3 | CN(C=O)C | C3H7NO
product | 2-Allylamino-1-[3-(S)-(tert-butyl-dimethyl-silanyloxy)-pyrrolidin-1-yl]-2-(S)-phenyl-ethanone | 5.67 g, 97.1% | C(C=C)N[C@H](C(=O)N1C[C@H](CC1)O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C21H34N2O2Si
